US07238808B2
5-[8-Cyano-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 3-ethynyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-8-carbonitrile (example C.23) (150 mg, 0.5 mmol) and commercially available 5-bromothiophene-2-sulfonamide (117 mg, 0.5 mmol) according to general procedure II. Obtained as an off-white solid (80 mg, 35%). MS (ISP) 473.1 [(M+H)+]; mp 267–269° C.

reactant | 3-ethynyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-8-carbonitrile | 0.5 mmol, 150 mg | C(#C)C1=CN=C2N1C=C(C=C2C#N)C2=CC=C(C=C2)C(F)(F)F | C17H8F3N3
reactant | 5-bromothiophene-2-sulfonamide | 0.5 mmol, 117 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[8-Cyano-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-thiophene-2-sulfonic acid amide | C(#N)C=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=CN2)C#CC2=CC=C(S2)S(=O)(=O)N | C21H11F3N4O2S2
